US08455514B2
To (R)-2-(tert-butoxycarbonylamino)-2-(thiophen-3-yl)acetic acid in CH2Cl2 cooled to −10° C. was added pyridine and cyanuric fluoride. The solution was stirred for 1 hour at −10° C., quenched with ice and extracted with CH2Cl2 and ice cold water, dried (Na2SO4), filtered and evaporated to give (R)-tert-butyl 2-fluoro-2 oxo-1-(thiophen-3-yl)ethylcarbamate.

reactant | (R)-2-(tert-butoxycarbonylamino)-2-(thiophen-3-yl)acetic acid | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C1=CSC=C1 | C11H15NO4S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | cyanuric fluoride | N1=C(F)N=C(F)N=C1F | C3F3N3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 2-fluoro-2 oxo-1-(thiophen-3-yl)ethylcarbamate | FC([C@@H](C1=CSC=C1)NC(OC(C)(C)C)=O)=O | C11H14FNO3S
